US04504305
EXAMPLE 17: 2-[1-(allyloxyimino)butyl]-5-[4-(ethylthio)carbonylphenyl]-3-hydroxy-2-cyclohexen-1-one
Into 20 ml og tetrahydrofuran was dissolved 2 g of 2-butyryl-5-[4-(ethylthio)carbonylphenyl]-3-hydroxy-2-cyclohexen-1-one and to the solution was added 0.8 g of allyloxyamine. The mixture was kept for 15 hours at room temperature and the solvent was distilled off from it under reduced pressure. Then, the residue was recrystallized with mixture of benzene-ligroin and 0.8 g of colorless objective crystals having a melting point of 72°-75° C. was obtained.

reactant | 2-butyryl-5-[4-(ethylthio)carbonylphenyl]-3-hydroxy-2-cyclohexen-1-one | 2 g | C(CCC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)C(=O)SCC)=O | C19H22O4S
reactant | allyloxyamine | 0.8 g | C(C=C)ON | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[1-(allyloxyimino)butyl]-5-[4-(ethylthio)carbonylphenyl]-3-hydroxy-2-cyclohexen-1-one | C(C=C)ON=C(CCC)C=1C(CC(CC1O)C1=CC=C(C=C1)C(=O)SCC)=O | C22H27NO4S
